* Copyright © Linear Technology Corp. 2012.  All rights reserved.
* This file is a partial copy of the LT1117.lib file in the standard
* LTspice /lib/sub folder
* 3.3v ldo, 1v dropout

simulator lang = spice

.subckt LT1117-3.3 1 2 3
C4 3 COM 10p
C5 2 COM 5p
M1 N001 N005 2 2 Q temp=27
D1 3 2 IM
D2 3 N001 DO
G2 3 N005 3 2 13n
D3 3 COM 55uA
G1 N005 2 2 N004 100µ
C1 2 N005 50p Rpar=10K noiseless
C3 N001 3 10p
C2 2 N004 5n
A1 2 COM 2 2 2 2 N004 2 OTA g=100u Iout=10u Ref=1.259 Vhigh=10 Vlow=-10
D5 N004 2 10K
R1 2 COM 250 noiseless
R2 COM 1 401 noiseless
.model Q VDMOS(Vto=0 Kp=800K)
.model IM D(Ron=100 Vfwd=.6 epsilon=.2 Ilimit=1.7m noiseless)
.model DO D(Ron=.1 epsilon=.07 Vfwd=.95 Ilimit=.95 noiseless)
.model 55uA D(Ron=10K Roff=10K Ilimit=55u noiseless)
.model 10K D(Ron=1 Roff=10K Vfwd=3m Vrev=3m epsilon=100m revepsilon=100m noiseless)
.ends LT1117-3.3
