* C:\Users\Karel\Documents\Eagle\swipt\Documents\Spice\H_Bridge_testbench.asc
XX1 3v3 0 N001 N004 0 12v 0 N002 N006 N005 N008 h_bridge
V1 3v3 0 3.3
V2 12v 0 12 Rser=0
Rload N003 N007 13
XX3 N002 N006 N003 N007 link_optimized
XX2 N001 N004 N005 N008 pwm_sourcev2 params: D=0.5, P=0.0127m

* block symbol definitions
.subckt h_bridge Vlog SD G1 G2 LGND Vcc COMM ACL ACN G3 G4
XU1 Vlog G1 SD G3 LGND N001 N003 ACL Vcc COMM N005 IR2110
XU2 Vcc N001 ACL irfs_sl7440pbf
XU3 ACL N005 COMM irfs_sl7440pbf
XU4 Vcc N002 ACN irfs_sl7440pbf
XU5 ACN N006 COMM irfs_sl7440pbf
XU6 Vlog G2 SD G4 LGND N002 N004 ACN Vcc COMM N006 IR2110
C1 N003 ACL 500n
D5 Vcc N003 DI_BAV5004LP
C2 COMM Vcc 10n
C3 N004 ACN 500n
D6 Vcc N004 DI_BAV5004LP
C4 Vcc COMM 10n
C5 Vlog LGND 10n
C6 Vlog LGND 10n
.include 1N914.spi
.include 1N5408.spi
.include DI_BAV5004LP.spi
.ends h_bridge

.subckt link_optimized IN1 IN2 OUT1 OUT2
L1 N007 IN2 {L1}
L2 N008 N002 {L2}
L3 N006 N009 {L3}
L4 OUT2 N004 {L4}
C1 N005 N008 {C2}
C2 N003 N009 {C3}
R1 N005 N002 {R2}
R2 N006 N003 {R3}
C3 OUT1 OUT2 {C4}
C4 N001 IN1 {C1}
R3 N001 N007 {R1}
R4 OUT1 N004 {R4}
R6 N002 N001 1G
R7 N003 N005 1G
R8 N004 N006 1G
K12 L1 L2 {k12}
K23 L2 L3 {k23}
K34 L3 L4 {k34}
K14 L1 L4 {k14}
K13 L1 L3 {k13}
K24 L2 L4 {k24}
.param k12=0.62499 k23=0.10311 k34=0.62499 k13=0.081644 k14=0.064839 k24=0.081644
.param L1=3.6751e-05 L2=0.00063979 L3=0.00063979 L4=3.6751e-05
.param R1=0.15326 R2=0.75095 R3=0.75095 R4=0.15326
.param C1=2.757e-07 C2=1.5837e-08 C3=1.5837e-08 C4=2.757e-07
.ends link_optimized

.subckt pwm_sourcev2 G1 G2 G3 G4
V1 G1 0 PULSE(0 {Von} 0 0 0 {P*D} {P*2})
V2 G2 0 PULSE(0 {Von} {P} 0 0 {P*D} {P*2})
E1 G3 N001 G1 0 -1
E2 G4 N002 G2 0 -1
V3 N001 0 {Von}
V4 N002 0 {Von}
.param P=0.01m
.param D=0.5
.param Von=3.3
.ends pwm_sourcev2

.model D D
.lib C:\Users\Karel\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.30m
* Simulate in alternate mode\nusing default Trtol\nUse gear integration
.lib C:\Users\Karel\Documents\Eagle\swipt\Documents\Spice\IR2110.spi
.lib C:\Users\Karel\Documents\Eagle\swipt\Documents\Spice\mosfets\irfs_sl7440pbf.spi
.backanno
.end

